US04614833
3-benzoyl-2-chloro-pyridine
A solution of 3.14 g (0.02 mols) bromobenzene in anhydrous ether is added dropwise to a suspension of 0.02 mols magnesium in anhydrous ether. The mixture is refluxed 1.5 hr. and is then cooled until room temperature. Now a solution of 1.38 g 2-chloro-3-cyanopyridine in 25 ml anhydrous ether is added slowly while stirring. The reaction mixture is refluxed 24 hrs. and there is added, after standing, 10% aqueous HCl. The aqueous layer is separated and the ethereal layer is washed with 25% aqueous HCl. The combined washings and the first aqueous layer are basified with 40% NaOH and extracted with ether. The combined extracts are dried (MgSO4) and solvent evaporated. The crude is distilled in vacuo. Yield: 0.8 g of title product, identical with that described in Ex. 1b.

reactant | bromobenzene | 0.02 mols, 3.14 g | BrC1=CC=CC=C1 | C6H5Br
reactant | magnesium | 0.02 mols | [Mg] | Mg
reactant | 2-chloro-3-cyanopyridine | 1.38 g | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | HCl | Cl | ClH
reactant | ether | CCOCC | C4H10O
reactant | ether | 25 ml | CCOCC | C4H10O
product | 3-benzoyl-2-chloro-pyridine | C(C1=CC=CC=C1)(=O)C=1C(=NC=CC1)Cl | C12H8ClNO
